Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
osteomyelitis of right fifth toe 
 
Major Surgical or Invasive Procedure:
right fifth toe amputation

 
History of Present Illness:
Mr. ___ is a ___ year old male with a ___ year history of DMI 
complicated by peripheral neuropathy.  He presented to clinic 
with a 2-week history of worsening right fifth toe abscess and 
gangrene.  He noticed this after wearing a wet boot for over 24 
hours after coming home from plowing snow.  He denies fevers and 
complains of intermittent chills.  Dr. ___ this ulcer 
in the office and he is now admitted for IV antibiotics, NIAS 
and further debridement.  
 
Past Medical History:
Past Medical History:
-IDDM
-polyneuropathy
-retinopathy
-ADHD
-chronic anemia
====================
Past Surgical History:
-Debridement of R foot ulcer and vac placement ___
-Right lower extremity angiography ___
-Left TMA
-Left BKA ___ OSH
-Revision BKA ___ (___) ___ (___)
-Tonsillectomy

 
Social History:
___
Family History:
Non-contributory

 
Physical Exam:
98.5po, 134/69, 93, 18, 97%RA
General: Mr. ___ is a well developed male in no acute 
distress.  He is sitting in a hospital bed for this physical.
HEENT: Head is atraumatic, normocephalic. Mucous membranes are 
moist.  Sclerae are anicteric.  Neck is supple.  No JVD. Trachea 
is midline.
HEART: Normal S1, S2.  There are no clicks, murmurs or rubs.
LUNGS: Clear to auscultation
ABDOMEN: Soft, non tender, non distended
LOWER EXTREMITIES: Left below knee amputation site well healed.  
The legs are warm.  Right fifth toe amputation site is well 
approximated with sutures.  There is no drainage, tenderness, 
fluctuance, foul odor, surrounding erythema.

PULSE EXAM: Left femoral (Palpable) popliteal(Palpable) /BKA
Right femoral (Palpable)popliteal (___) DP 
(Doppler)

 
Pertinent Results:
___ 07:45AM BLOOD WBC-11.6* RBC-2.69* Hgb-7.7* Hct-23.6* 
MCV-88 MCH-28.6 MCHC-32.6 RDW-13.0 RDWSD-41.1 Plt ___
___ 07:45AM BLOOD Glucose-145* UreaN-38* Creat-1.3* Na-140 
K-5.2* Cl-107 HCO3-19* AnGap-19
___ 07:45AM BLOOD Calcium-8.4 Phos-5.3* Mg-2.5
___ 07:50AM BLOOD %HbA1c-10.2* eAG-246*
 
Brief Hospital Course:
Mr. ___ was admitted to the vascular surgery service.  He was 
started on Vancomycin and Ceftriaxone.  He was hyperglycemic and 
because of his HgA1C >10, ___ was consulted.  They made 
recommendations for an insulin drip.  The patient felt that this 
was too aggressive and refused.  They made changes to his SC 
insulin regimen and he also felt that these were too aggressive 
so refused.  He allowed nursing to give him conservative doses 
of both Lantus and Humalog and over the course of the next 
several days, his blood glucoses stabilized. 

He left the unit several times to have a cigarette despite 
multiple attempts to provide a nicotine patch or nicotine gum.

On ___, he went to the OR with podiatry for right fifth toe 
amputation.  The tissue was sent to pathology and cultures were 
grown.  Infectious disease was consulted.  On ___, his 
pathology report revealed concern for osteomyelitis.  ID 
recommended 6 weeks of IV Vancomycin in addition to 2 weeks of 
PO Flagyll and Cipro.  A PICC line was placed.  He became 
hypertensive to the 170s.  He received IV Hydralazine and his 
blood pressure responded appropriately.  His right foot wound 
was evaluated daily.  He did not develop systemic signs of 
infection.  His glucoses and hypertension became better 
controlled.

On POD 4, his right foot appeared to be improving and was closed 
by podiatry.  He did not have any foot pain throughout his 
hospitalization.  He worked with ___ who arranged for him to have 
a wheelchair with removable arm rests delivered to the home.  At 
the time of discharge, his vital signs were stable.  He denied 
pain.  His glucoses were stable.  He was without signs or 
symptoms of infection.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen ___ mg PO TID:PRN Muscle Spasms 
2. Lisinopril 2.5 mg PO DAILY 
3. Glargine 15 Units Breakfast
Glargine 17 Units Bedtime
Insulin SC Sliding Scale using Novolog Insulin
4. atomoxetine 25 mg oral daily 
5. Pregabalin 25 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*28 Tablet Refills:*0 
4.  MetroNIDAZOLE 500 mg PO Q8H 
Do not drink alcohol while taking this medication or a very 
severe reaction may ensue 
RX *metronidazole 500 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0 
5.  Vancomycin 1250 mg IV Q 24H 
RX *vancomycin 500 mg 1 vial IV q24h Disp #*42 Vial Refills:*0
RX *vancomycin 750 mg 1 vial IV q24h Disp #*42 Vial Refills:*0 
6.  Glargine 26 Units Breakfast
Glargine 14 Units Bedtime
Humalog 8 Units Breakfast
Humalog 4 Units Lunch
Humalog 6 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
RX *insulin glargine [Lantus] 100 unit/mL AS DIR units SQ 26 
Units before BKFT; 14 Units before BED; Disp #*5 Vial Refills:*3
RX *insulin lispro [Humalog] 100 unit/mL AS DIR Units SQ Up to 8 
U QID per sliding scale 4 U before LNCH; Units QID per sliding 
scale 6 U before DINR; Units QID per sliding scale Disp #*5 Vial 
Refills:*3 
7.  atomoxetine 25 mg oral daily  
8.  Baclofen ___ mg PO TID:PRN Muscle Spasms  
9.  Lisinopril 2.5 mg PO DAILY  
10.  Pregabalin 25 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
DMI
Osteomyelitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you.  You were admitted to the 
hospital because of an infection in the bone of your right fifth 
toe.  You are now being discharged after undergoing amputation 
of your right fifth toe.  You are recovering very well.  Please 
follow the below instructions for an uncomplicated recovery:

WHAT TO EXPECT:
It is normal to feel tired.  This might last for ___ weeks.
You should get up out of bed every day with assistance and 
gradually increase your activity each day.  Do not do too much 
right away!

Remember that you should not bear weight on your right forefoot. 
 Some patients who undergo toe amputation fall once they get 
home.  Be very careful when standing, transferring from one 
position to another or walking!  You should ask for help if you 
do not think you can safely do these by yourself!

It is normal to have some swelling surrounding the incision.
Elevate your leg above the level of your heart every ___ hours 
throughout the day.

Avoid prolonged periods of standing or sitting without your leg 
elevated.  

It is normal to have a decreased appetite. You might lose your 
taste for food and lose some weight.  Eat small, frequent meals. 
 Your appetite should return with time.  It is important to eat 
nutritious food options (high fiber, lean meats, 
vegetables/fruits, low fat, low cholesterol) to maintain your 
strength and assist in wound healing.
To avoid constipation, eat a high fiber diet and use stool 
softener while taking pain medication.

MEDICATIONS:
Follow your discharge medication instructions below.  These have 
been carefully reviewed by your providers.
You can use Tylenol ___ every 8 hours.  Be aware that there 
are some over-the-counter and prescription medications that 
contain acetaminophen.  Be sure never to consume more than 
3000mg of Tylenol(also known as Acetaminophen) in one day.
Use narcotic pain medication sparingly.  You should require 
smaller amounts and doses of this less often as time goes on.  
NEVER DRIVE OR OPERATE MACHINERY WHILE ON NARCOTIC PAIN  
MEDICATION.  If you are taking narcotics, keep in mind that you 
may become constipated.  You can take over-the-counter stool 
softeners or laxatives to prevent or treat this.

ACTIVITIES:
No driving until post-op visit and you are no longer taking pain 
medications.

Do not bear weight on your right forefoot.

You may shower.  Do not directly spray the incision.  Let the 
soapy water run over incision, rinse and pat dry.

CALL THE OFFICE at ___ FOR:
Redness that extends away from your incision
A sudden increase in pain that is not controlled with pain 
medication
A sudden change in the ability to move or use your leg or the 
ability to feel your leg
Temperature greater than 100.5F for 24 hours
Bleeding, new or increased drainage from incision or white, 
yellow or green drainage from incisions
Any questions or concerns

 
Followup Instructions:
___